US07741347B2
A suspension of (S)-benzyl 2-oxooxetan-3-ylcarbamate (0.67 g, 3.03 mmol), and pyrazole (0.22 g, 3.29 mmol) in CH3CN (12 mL) was heated at 50° C. for 24 h. The mixture was cooled to rt overnight and the solid filtered to afford (S)-2-(benzyloxycarbonylamino)-3-(1H-pyrazol-1-yl)propanoic acid (330.1 mg). The filtrate was concentrated in vacuo and then triturated with a small amount of CH3CN (ca. 4 mL) to afford a second crop (43.5 mg). Total yield 370.4 mg (44%). m.p. 165.5-168° C. lit m.p. 168.5-169.5 [Vederas et al. J. Am. Chem. Soc. 1985, 107, 7105]. 1HNMR (400 MHz, CD3OD) δ 7.51 (d, J=2.0, 1H), 7.48 (s, J=1.5 Hz, 1H), 7.24-7.34 (m, 5H), 6.23 m, 1H), 5.05 (d, 12.7H, 1H), 5.03 (d, J=12.7 Hz, 1H), 4.59-4.66 (m, 2H), 4.42-4.49 (m, 1H). LCMS: Anal. Calcd. for C14H15N3O4: 289. found: 290 (M+H)+.

reactant | (S)-benzyl 2-oxooxetan-3-ylcarbamate | 3.03 mmol, 0.67 g | O=C1OC[C@@H]1NC(OCC1=CC=CC=C1)=O | C11H11NO4
reactant | pyrazole | 3.29 mmol, 0.22 g | N1N=CC=C1 | C3H4N2
solvent | CH3CN | 12 mL | CC#N | C2H3N
product | (S)-2-(benzyloxycarbonylamino)-3-(1H-pyrazol-1-yl)propanoic acid | 330.1 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CN1N=CC=C1 | C14H15N3O4
